US06723735B1
A solution of 5-bromo-2-chloro-3-nitropyridine (2.37 g, 10 mmol) and m-anisidine (1.34 ml, 12 mmol) in dimethylsulphoxide (7 ml) and triethylanine (7 ml, 50 mmol) was heated at 80° C. for 3 hours. The reaction was cooled to ambient temperature then partitioned between dichloromethane and water. The organic layer was washed with water, brine, dried over anhydrous sodium sulphate, filtered and evaporated to dryness to afford a red solid. This solid was suspended in methanol (100 ml) and treated with sodium sulphide nonahydrate (9.6 g, 40 mmol) and ammonium chloride (2.14 g, 40 mmol) then heated at reflux for 3 hours. The reaction was cooled, filtered and evaporated to dryness. The resulting orange residue was suspended in 98% formic acid (40 ml) and heated at 85° C. for 12 hours. The reaction was cooled, poured into water, neutralised with 2N sodium hydroxide and the solid extracted into ethyl acetate. The organics were washed with water, brine, dried over anhydrous sodium sulphate, filtered through a pad of silica and concentrated. Trituration of the residue with 25% ether in isohexane afforded 6-bromo-3-(3-methoxyphenyl)-3H-imidazo[4,5-b]pyridine as a pale yellow solid (3.04 g, 99% over 3 steps); δH (400 MHz, CDCl3) 3.89 (3H, s), 7.00 (1H, dd, J 8 and 2), 7.26-7.32 (2H, m), 7.48 (1H, t, J 8), 8.29 (2H, dd, J 12 and 2), 8.50 (1H, d, J 2); m/z (ES+) 304 and 306 (M++H).

reactant | 5-bromo-2-chloro-3-nitropyridine | 10 mmol, 2.37 g | BrC=1C=C(C(=NC1)Cl)[N+](=O)[O-] | C5H2BrClN2O2
reactant | m-anisidine | 12 mmol, 1.34 ml | COC1=CC(=CC=C1)N | C7H9NO
reactant | sodium sulphide nonahydrate | 40 mmol, 9.6 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | ammonium chloride | 40 mmol, 2.14 g | [Cl-].[NH4+]
reactant | dimethylsulphoxide | 7 ml | CS(=O)C | C2H6OS
solvent | methanol | 100 ml | CO | CH4O
product | 6-bromo-3-(3-methoxyphenyl)-3H-imidazo[4,5-b]pyridine | BrC=1C=C2C(=NC1)N(C=N2)C2=CC(=CC=C2)OC | C13H10BrN3O
